### PR TITLE
Jacob/positivity1138

### LINKED ISSUE #1138: `enum` with array/slice/`Vec` of itself breaks strict positivity
Rust types like the following:

```rust
enum E {
    V([Box<E>; 1]),
}

enum E {
    V(Vec<E>),
}

enum E {
    V(&'static [E]),
}
```

generate (on def42472b698) e.g.:

```lean4
@[discriminant isize]
inductive E where
  | V : Slice E → E
```

which break strict positivity:

```txt
error: Ex.lean:20:0: (kernel) arg #1 of 'ex.E.V' contains a non valid occurrence of the datatypes being declared
```

because Aeneas' `Array`/`Slice`/`Vec` are `def`s, i.e. code like:

```lean4
def Slice (α : Type) := List α

inductive E where
  | V : Slice E → E
```

is not accepted.

### PR DESCRIPTION
**Pull request by jeprinz**
This PR fixes https://github.com/AeneasVerif/aeneas/issues/1138.

I've rearranged the definitions of `Slice`, `Vec`, and `Array` so that lean will allow datatypes with recursive references through them.

### CODE REVIEW

File: backends/lean/Aeneas/Command/Decompose/Tests.lean [hunk 1]
```diff
@@ -840,7 +840,7 @@ def test23 (n : Nat) (x : U32) (s : Slice U8) (b : Bool) : Result U32 := do
 info: def Aeneas.Command.Decompose.Tests.test23_prefix : U32 → Slice U8 → Bool → Result (ℕ × UScalar UScalarTy.U32) :=
 fun x s b => do
   let a ← x + 1#u32
-  let len : ℕ := (↑s).length
+  let len : ℕ := s.val.length
```
Comment (jeprinz) [inline backends/lean/Aeneas/Command/Decompose/Tests.lean]: tag with attribute to declare coercion
attribute for pretty printing

File: backends/lean/Aeneas/Data/ListN.lean [hunk 2]
```diff
@@ -0,0 +1,34 @@
+namespace Aeneas.Data.ListN
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Data/ListN.lean:36]: We should add a comment explaining why we need this (mention the positivity issue with an example)

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 3]
```diff
@@ -15,22 +17,60 @@ local macro_rules
 # Array
 -/
 
-def Array (α : Type u) (n : Usize) := { l : List α // l.length = n.val }
+-- Note that this can't be a simple def because then lean won't allow recursive
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean]: Update comment to mention `subtype` rather than `simple def`

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 4]
```diff
@@ -15,22 +17,60 @@ local macro_rules
...
+-- inductives with Arrays in them (See: https://github.com/AeneasVerif/aeneas/issues/1138)
+structure Array (α : Type u) (n : Usize) where
+  list : ListN α n.val
+deriving BEq, ReflBEq, LawfulBEq, DecidableEq
+
+@[coe]
+def Array.val {α n} (a : Array α n) : List α := a.list.toList
+
+@[simp, grind ., grind! .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean]: These two grind patterns are suspicious (we should only have `grind =`). Also: missing `agrind`, `scalar_tac_simps`, `simp_lists_safe`, `simp_scalar_safe`.

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 5]
```diff
@@ -15,22 +17,60 @@ local macro_rules
...
+    list := cast (congrArg (ListN α) h) (.fromList l)
+  }
+
+@[scalar_tac_simps, simp, grind! ., grind .]
+theorem Array.from_val {α} {n : Usize} (l : List α) (h : l.length = n.val)
+  : (Array.from l h).val = l := by
+  simp [Array.from, Array.val]
+  grind [ListN.from_to_inverse]
+
+@[scalar_tac_simps, simp, grind! ., grind .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean]: Similar remark as above about the attributes

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 6]
```diff
@@ -15,22 +17,60 @@ local macro_rules
...
+theorem Array.val_from {α n} (s : Array α n) h
+  : Array.from s.val h = s := by
+  rcases s with ⟨l⟩
+  simp [val, Array.from] at *
+  grind [ListN.to_from_inverse (l:=l)]
+
+theorem Array.eq_iff {α n} (s0 s1 : Array α n) : s0 = s1 ↔ s0.val = s1.val := by
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean:54]: I think there exists an attribute that allows grind to leverage this

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 7]
```diff
@@ -15,22 +17,60 @@ local macro_rules
...
 
 /-- We need this to coerce arrays to lists without marking `Array` as reducible.
     Also not that we *do not* want to mark `Array` as reducible: it triggers issues.
 -/
 instance (α : Type u) (n : Usize) : CoeOut (Array α n) (List α) where
   coe := λ v => v.val
 
-instance [BEq α] : BEq (Array α n) := SubtypeBEq _
-
-instance [BEq α] [LawfulBEq α] : LawfulBEq (Array α n) := SubtypeLawfulBEq _
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean:28]: It would be nice to preserve these

File: backends/lean/Aeneas/Std/Slice.lean [hunk 8]
```diff
@@ -26,11 +26,10 @@ attribute [-simp] List.getElem!_eq_getElem?_getD
...
 
-instance [BEq α] : BEq (Slice α) := SubtypeBEq _
-
-instance [BEq α] [LawfulBEq α] : LawfulBEq (Slice α) := SubtypeLawfulBEq _
-
-instance [DecidableEq α] : DecidableEq (Slice α) := inferInstanceAs (DecidableEq { _l : List α // _ })
+-- TODO: clean
+-- instance [BEq α] : BEq (Slice α) := SubtypeBEq _
+-- instance [BEq α] [LawfulBEq α] : LawfulBEq (Slice α) := SubtypeLawfulBEq _
+-- instance [DecidableEq α] : DecidableEq (Slice α) := inferInstanceAs (DecidableEq { _l : List α // _ })
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Slice.lean]: We should reintroduce these

File: backends/lean/Aeneas/Std/Slice.lean [hunk 9]
```diff
@@ -42,13 +41,17 @@ abbrev Slice.length {α : Type u} (v : Slice α) : Nat := v.val.length
...
+  list := .nil
+  bound := by simp
+}
 
 @[rust_fun "core::slice::{[@T]}::len" -canFail -lift]
 abbrev Slice.len {α : Type u} (v : Slice α) : Usize :=
-  Usize.ofNatCore v.val.length (by scalar_tac)
+  Usize.ofNatCore v.val.length (by grind [Usize.max, Usize.numBits])
 
 @[simp, scalar_tac_simps]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Slice.lean]: Just noticed we can add grind patterns here

File: backends/lean/Aeneas/Std/Slice.lean [hunk 10]
```diff
@@ -117,8 +120,8 @@ def Slice.index_usize {α : Type u} (v: Slice α) (i: Usize) : Result α :=
   | none => fail .arrayOutOfBounds
   | some x => ok x
 
-theorem Slice.eq_iff {α} (s0 s1 : Slice α) : s0 = s1 ↔ s0.val = s1.val := by
-  simp only [Slice, Subtype.ext_iff]
+theorem Slice.ext {α} (s0 s1 : Slice α) : s0.val = s1.val → s0 = s1 := by
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Slice.lean]: We can probably add agrind attribute here.

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 11]
```diff
@@ -1,7 +1,84 @@
 import Aeneas.Std.Scalar.Core
+import Aeneas.Data.ListN
 
 namespace Aeneas.Std
+open Aeneas.Data.ListN
 
-def Slice (α : Type u) := { l : List α // l.length ≤ Usize.max }
+-- This unusual definition using ListN is necessary due to positivity issues.
+-- See the test at the end of this file.
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]: Update the comment

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 12]
```diff
@@ -1,7 +1,84 @@
...
+structure Slice (α : Type u) where
+  leng : Nat
+  list : ListN α leng
+  bound : leng ≤ Usize.max
+deriving BEq, ReflBEq, LawfulBEq, DecidableEq
+
+@[coe]
+def Slice.val {α} (s : Slice α) : List α := s.list.toList
+
+@[simp, grind ., grind! .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]: grind attributes

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 13]
```diff
@@ -1,7 +1,84 @@
...
+  apply s.bound
+
+def Slice.from {α} (l : List α) (h : l.length ≤ Usize.max) : Slice α :=
+  {
+    leng := l.length
+    list := .fromList l
+    bound := by assumption
+  }
+
+@[scalar_tac_simps, simp, grind! ., grind .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]: grind attributes

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 14]
```diff
@@ -1,7 +1,84 @@
...
+theorem Slice.from_val {α} (l : List α) (h : l.length ≤ Usize.max)
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean:37]: We can probably add simp/simp_lists_safe/grind attributes here

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 15]
```diff
@@ -1,7 +1,84 @@
...
+  : (Slice.from l h).val = l := by
+  simp [Slice.from, Slice.val, ListN.from_to_inverse]
+
+@[scalar_tac_simps, simp, grind! ., grind .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]: grind attributes, simp_lists_safe

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 16]
```diff
@@ -1,7 +1,84 @@
...
+theorem Slice.val_from {α} (s : Slice α) h
+  : Slice.from s.val h = s := by
+  cases s
+  simp [val, Slice.from] at *
+  simp [ListN_length]
+  apply ListN.to_from_inverse
+
+theorem Slice.eq_iff {α} (s0 s1 : Slice α) : s0 = s1 ↔ s0.val = s1.val := by
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean:49]: grind attribute for injectivity

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 17]
```diff
@@ -1,7 +1,84 @@
...
+argument has type
+  _nested.List_2
+but function has type
+  List E2 → ℕ
+-/
+#guard_msgs in
+inductive E2 where
+| d : Slice2 E2 → E2
+
+end Aeneas.Std.Test
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]: We should move this to the ListN.lean

File: backends/lean/Aeneas/Std/Vec.lean [hunk 18]
```diff
@@ -19,40 +20,61 @@ local macro_rules
 namespace alloc.vec
 
 @[rust_type "alloc::vec::Vec"]
-def Vec (α : Type u) := { l : List α // l.length ≤ Usize.max }
+structure Vec (α : Type u) where
+  slice : Slice α
+deriving BEq, ReflBEq, LawfulBEq, DecidableEq
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean:30]: would it work to define `def Vec (α : Type u) := Slice α`? Or do we also have a positivity issue when defining recursive types?

File: backends/lean/Aeneas/Std/Vec.lean [hunk 19]
```diff
@@ -19,40 +20,61 @@ local macro_rules
...
 
 /-- We need this to coerce vectors to lists without marking `Vec` as reducible.
     Also not that we *do not* want to mark `Vec` as reducible: it triggers issues.
 -/
 instance (α : Type u) : CoeOut (Vec α) (List α) where
   coe := λ v => v.val
 
-instance [BEq α] : BEq (Vec α) := SubtypeBEq _
+def Vec.from {α} (l : List α) (h : l.length ≤ Usize.max) : Vec α := {slice := Slice.from l h}
+@[scalar_tac_simps, simp, grind! ., grind .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean]: grind attributes

File: backends/lean/Aeneas/Std/Vec.lean [hunk 20]
```diff
@@ -19,40 +20,61 @@ local macro_rules
...
+theorem Vec.from_val {α} (l : List α) (h : l.length ≤ Usize.max)
+  : (Vec.from l h).val = l := by simp [Vec.from, Vec.val]
+
+@[scalar_tac_simps, simp, grind! ., grind .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean]: grind attributes

File: backends/lean/Aeneas/Std/Vec.lean [hunk 21]
```diff
@@ -19,40 +20,61 @@ local macro_rules
...
+theorem Vec.val_from {α} (s : Vec α) h
+  : Vec.from s.val h = s := by simp [Vec.from, Vec.val]
 
-instance [BEq α] [LawfulBEq α] : LawfulBEq (Vec α) := SubtypeLawfulBEq _
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean:32]: We should preserve this

File: backends/lean/Aeneas/Std/Vec.lean [hunk 22]
```diff
@@ -19,40 +20,61 @@ local macro_rules
...
+@[simp, grind ., grind! .]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean]: grind, simp, etc. attributes

File: backends/lean/Aeneas/Std/Vec.lean [hunk 23]
```diff
@@ -296,45 +325,53 @@ theorem Vec.index_Range_spec {α : Type} (v : Vec α) (r : core.ops.range.Range
...
   {T : Type} (cloneInst : core.clone.Clone T) (s : Slice T) : Result (alloc.vec.Vec T) := do
-  Slice.clone cloneInst.clone s
+  let s ← Slice.clone cloneInst.clone s
+  ok {slice := s}
 
 @[step]
 theorem alloc.slice.Slice.to_vec_spec {T : Type} (cloneInst : core.clone.Clone T) (s : Slice T)
   (h : ∀ x ∈ s.val, cloneInst.clone x = ok x) :
-  alloc.slice.Slice.to_vec cloneInst s ⦃ s' => s = s'⦄ := by
+  alloc.slice.Slice.to_vec cloneInst s ⦃ s' => s = s'.slice⦄ := by
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Vec.lean]:
```suggestion
  alloc.slice.Slice.to_vec cloneInst s ⦃ s' => s = s'.slice ⦄ := by
```

**Review by sonmarcho — CHANGES_REQUESTED** [review]
Thanks for this! I have many small comments (let me take care of that).

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 24]
```diff
@@ -15,22 +17,66 @@ local macro_rules
 # Array
 -/
 
-def Array (α : Type u) (n : Usize) := { l : List α // l.length = n.val }
+-- Note that we can't define `Array` as a subtype of `List` (that is:
+-- `{ l : List α // l.length = n.val }`): Lean would then reject the inductive definitions
+-- which use `Array` in a positive position, because of positivity issues.
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/Array.lean]:
```suggestion
-- `{ l : List α // l.length = n.val }`): Lean would then reject the inductive definitions
-- which use `Array` in a positive position.
```

File: backends/lean/Aeneas/Std/Array/ArraySlice.lean [hunk 25]
```diff
@@ -46,10 +46,10 @@ theorem Array.to_slice_mut_spec {α : Type u} {n : Usize} (a : Array α n) :
 def Array.subslice {α : Type u} {n : Usize} (a : Array α n) (r : Range Usize) : Result (Slice α) :=
   -- TODO: not completely sure here
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Array/ArraySlice.lean]:
```suggestion
```

File: backends/lean/Aeneas/Std/SliceDef.lean [hunk 26]
```diff
@@ -1,7 +1,66 @@
 import Aeneas.Std.Scalar.Core
+import Aeneas.Data.ListN
 
 namespace Aeneas.Std
+open Aeneas.Data.ListN
 
-def Slice (α : Type u) := { l : List α // l.length ≤ Usize.max }
+-- Note that we can't define `Slice` as a subtype of `List` (that is:
+-- `{ l : List α // l.length ≤ Usize.max }`): Lean would then reject the inductive
+-- definitions which use `Slice` in a positive position, because of a positivity issue.
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceDef.lean]:
```suggestion
-- definitions which use `Slice` in a positive position.
```

**Review by sonmarcho — APPROVED** [review]

File: backends/lean/Aeneas/Data/ListN.lean [hunk 27]
```diff
@@ -0,0 +1,121 @@
...
+legal, and that the naive encoding does not.
+-/
+namespace Test
+
+/-- A `Slice`-like structure, defined the way `Aeneas.Std.Slice` is: the length is a
+    *field*, the list is indexed by it, and the bound only mentions that field. -/
+structure GoodSlice (α : Type) where
+  len : Nat
+  list : ListN α len
+  bound : leng ≤ 2 ^ 64 - 1
```
Comment (oliver-butterley) [inline backends/lean/Aeneas/Data/ListN.lean:82]:
```suggestion
  bound : len ≤ 2 ^ 64 - 1
```

Do I understand correctly that `leng` should be `len` here? Otherwise I don't see how it tests anything here.

Would it be worthwhile to disallow implicit parameters so something like this is caught immediately in the editor?

Comment (sonmarcho) [reply backends/lean/Aeneas/Data/ListN.lean:82]: Yes indeed. I think it would be a good idea.
